US07973012B2
Preparation of (1S)-1,5-anhydro-2,3,4,6-tetra-O-benzyl-1-[2-(benzyloxy)-5-[4-[2-(1,3-dioxo-1,3-dihydro-2H-isoindole-2-yl)ethoxy]-2-methylbenzyl]-4-methylphenyl]-D-glucitol
To a N,N-dimethylformamide solution (5.0 mL) of (1S)-1,5-anhydro-2,3,4,6-tetra-O-benzyl-1-[2-(benzyloxy)-5-(4-hydroxy-2-methylbenzyl)-4-methylphenyl]-D-glucitol (340 mg, 0.40 mmol) and N-(2-bromoethyl)phthalimide (1.02 g, 4.0 mmol) were added potassium carbonate (553 mg, 4.0 mmol) and n-Bu4NI (14 mg, 0.038 mmol). The reaction mixture was stirred at 80° C. for 3.5 hours. After the mixture was cooled to room temperature, water was added thereto, and the resulting mixture was extracted with ethyl acetate. The organic layer was washed with brine, and dried with anhydrous magnesium sulfate. The drying agent was filtered off, and the solvent was evaporated under reduced pressure to obtain a residue. Thus obtained residue was purified with silica gel column chromatography (hexane:ethyl acetate=3:1) to obtain the title compound (60 mg, 15%) as a pale yellow oily compound.

reactant | N,N-dimethylformamide | 5.0 mL | CN(C=O)C | C3H7NO
reactant | (1S)-1,5-anhydro-2,3,4,6-tetra-O-benzyl-1-[2-(benzyloxy)-5-(4-hydroxy-2-methylbenzyl)-4-methylphenyl]-D-glucitol | 0.40 mmol, 340 mg | C(C1=CC=CC=C1)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=C(C=C(C(=C1)CC1=C(C=C(C=C1)O)C)C)OCC1=CC=CC=C1 | C56H56O7
reactant | N-(2-bromoethyl)phthalimide | 4.0 mmol, 1.02 g | BrCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H8BrNO2
reactant | potassium carbonate | 4.0 mmol, 553 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | n-Bu4NI | 0.038 mmol, 14 mg | [N+](CCCC)(CCCC)(CCCC)CCCC.[I-]
solvent | water | O | H2O
product | (1S)-1,5-anhydro-2,3,4,6-tetra-O-benzyl-1-[2-(benzyloxy)-5-[4-[2-(1,3-dioxo-1,3-dihydro-2H-isoindole-2-yl)ethoxy]-2-methylbenzyl]-4-methylphenyl]-D-glucitol | 60 mg, 15% | C(C1=CC=CC=C1)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=C(C=C(C(=C1)CC1=C(C=C(C=C1)OCCN1C(C2=CC=CC=C2C1=O)=O)C)C)OCC1=CC=CC=C1 | C66H63NO9
